US08222262B2
[6-(3-Chloro-indazol-1-yl)-pyridin-2-yl]-(4-chloro-phenyl)-amine (Compound C2)
Was prepared according to Method C from 2,6-difluoropyridine, 3-chloroindazole and 4-chloroaniline. LC-ESI-HRMS of [M+H]+ shows 355.0528 Da. Calc. 355.051727 Da, dev. 3 ppm.

reactant | 2,6-difluoropyridine | FC1=NC(=CC=C1)F | C5H3F2N
reactant | 3-chloroindazole | ClC1=NNC2=CC=CC=C12 | C7H5ClN2
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | [6-(3-Chloro-indazol-1-yl)-pyridin-2-yl]-(4-chloro-phenyl)-amine | ClC1=NN(C2=CC=CC=C12)C1=CC=CC(=N1)NC1=CC=C(C=C1)Cl | C18H12Cl2N4
